US04788205
This compound was prepared from 2-methyl-4,5,6,7-tetrahydrobenzimidazole by reaction with ethylbromoacetate followed by reduction with lithium aluminium hydride to give 2-(2-methyl-4,5,6,7-tetrahydrobenzimidazol-1-yl)ethanol. Reaction with ethyl 4-chloroacetoacetate following the procedure of 1 above gave the title compound as a red oil. NMR, CDCl3 : δ 1.26 (t, J=6 Hz, 3H); 1.80 (m, 4H); 2.40 (s, 3H); 2.49 (m, 2H); 2.57 (m, 2H); 3.44 (s, 2H); 3.67 (t, J=5 Hz, 2H); 3.92 (t, J=5 Hz, 2H); 4.13 (s, 2H); 4.20 (q, J=6 Hz, 2H).

reactant | 2-methyl-4,5,6,7-tetrahydrobenzimidazole | CC=1NC2=C(N1)CCCC2 | C8H12N2
reactant | ethylbromoacetate | C(C)OC(CBr)=O | C4H7BrO2
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 2-(2-methyl-4,5,6,7-tetrahydrobenzimidazol-1-yl)ethanol | CC1=NC2=C(N1CCO)CCCC2 | C10H16N2O
